US05361148
2-trifluoromethyl-4-nitro-4'-methoxystilbene (MTFNS)
In a 250 mL round bottom flask equipped with stirbar, reflux condenser and nitrogen inlet was placed 2-bromo-5-nitrobenzotrifluoride (5.40g, 20 mmol), 4-vinylanisole (2.95 g, 22 retool), NMP (20 mL), tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1) (0.65 g, 2.0 mmol), potassium carbonate (4.2 g, 30 mmol) and palladium chloride (0.035 g, 0.20 retool). The resulting slurry was gradually warmed up to 140° and maintained at that temperature for 4 hr. The mixture was then cooled and water (200 mL) was added dropwise with stirring. The oily aqueous layer was decanted and replaced by more water (200 mL) and the resulting suspension was stirred and the black solid isolated by suction filtration, washed well with water and then air dried. The crude product was transferred to an Erlenmeyer flask containing Bentonite clay (5 g), silica gel (5 g) and methylcyclohexane (150 mL). The slurry was boiled with stirring, hot filtered and upon cooling the product was isolated from the filtrate as light yellow crystals, (3.30 g, 51%): mp 120.4-122.7°; 1H NMR (CDCl3)δ8.52 (s, 1H), 8.35 (d, J=9Hz, 1H), 7.94 (d, J=9 Hz), 7.51 (d, J=9 Hz, 2H), 7.28 (q, J=16 Hz, 2H), 6.95 (d, J=9 Hz), 3.86 (s, 3H); 13C NMR (CDCl3)ppm 160.669, 145.561,143.022, 136.361,128.812, 128.438, 128.005, 127.502, 127.251,126.439, 129.315, 121.961,121.864, 120.953. 119.581, 114.318, 55.278.

reactant | 2-bromo-5-nitrobenzotrifluoride | 20 mmol, 5.40g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3BrF3NO2
reactant | 4-vinylanisole | 2.95 g | C(=C)C1=CC=C(C=C1)OC | C9H10O
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 2.0 mmol, 0.65 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | potassium carbonate | 30 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium chloride | 0.035 g | [Pd](Cl)Cl
solvent | water | 200 mL | O | H2O
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 2-trifluoromethyl-4-nitro-4'-methoxystilbene | 3.30 g, 51% | FC(C1=C(C=CC(=C1)[N+](=O)[O-])C=CC1=CC=C(C=C1)OC)(F)F | C16H12F3NO3
